US04101667
The mixture of 30g of 2-chloro-6-(p-methoxyphenylthio)-phenylacetic acid and 300 g of polyphosphoric acid was stirred at 110° C for 3 hours. After cooling, to the mixture was added water and the mixture was extracted with chloroform. The extract was washed with 1N sodium hydroxide solution, saturated sodium chloride solution, dried over anhydrous sodium sulfate and freed of the solvent to afford 22.9g (81%) of 2-methoxy-9-chloro-10,11-dihydrodibenzo[b,f]thiepin-11-one as reddish crystals having a melting point of 117°-120° C.

reactant | 2-chloro-6-(p-methoxyphenylthio)-phenylacetic acid | ClC1=C(C(=CC=C1)SC1=CC=C(C=C1)OC)CC(=O)O | C15H13ClO3S
solvent | water | O | H2O
product | 2-methoxy-9-chloro-10,11-dihydrodibenzo[b,f]thiepin-11-one | 22.9g, 81% | COC1=CC2=C(SC3=C(CC2=O)C(=CC=C3)Cl)C=C1 | C15H11ClO2S
